US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[1-hydroxy-1-[[4-(piperidin-1-yl)piperidin-1-yl]carbonyl]methyl]-1H-indole (Example 77)
A round bottom flask under a nitrogen atmosphere was charged with 1-methyl-2-(4-chlorophenoxymethyl)-3-[2-[4-(piperidin-1-yl)piperidin-1-yl]-1,2-ethanedionyl]-1H-indole (0.1414 g, 0.282 mmol) and 2.8 ml of denatured ethanol. To this mixture was added sodium borohydride (0.064 g, 1.69 mmol). The reaction mixture was then stirred at room temperature overnight. The progress of the reaction was monitored by thin layer chromatography.

reactant | 1-methyl-2-(4-chlorophenoxymethyl)-3-[2-[4-(piperidin-1-yl)piperidin-1-yl]-1,2-ethanedionyl]-1H-indole | 0.282 mmol, 0.1414 g | CN1C(=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)N1CCCCC1)=O)COC1=CC=C(C=C1)Cl | C28H32ClN3O3
reactant | sodium borohydride | 1.69 mmol, 0.064 g | [BH4-].[Na+]
solvent | ethanol | 2.8 ml | C(C)O | C2H6O
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[1-hydroxy-1-[[4-(piperidin-1-yl)piperidin-1-yl]carbonyl]methyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C(C(=O)N2CCC(CC2)N2CCCCC2)O)C)C=C1 | C28H34ClN3O3
